US09340549B2
(S)-3-(4-(5-([1,2,4]Triazolo[4,3-b]pyridazin-6-yl)-6-aminopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one
A 2-mL glass microwave reaction vessel was charged with ammonia (2 M solution in 2-propanol) (63.2 μL, 2.91 mmol) (commercially available from Sigma-Aldrich, Milwaukee, Wis.) and (S)-3-(4-(5-([1,2,4]triazolo[4,3-b]pyridazin-6-yl)-6-fluoropyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one (14 mg, 0.029 mmol) in DMSO (291 μL). The reaction mixture was stirred and heated at 120° C. overnight. LC-MS indicated clean and complete conversion to desired product. After cooling to room temperature, the reaction mixture was diluted with water and extracted with EtOAc (3×). The combined organic layers were washed with water (2×) and brine and dried over MgSO4. The solution was filtered and concentrated under reduced pressire. The residue was purified by reverse-phase preparative HPLC using 0.1% TFA in ACN/H2O, gradient 15% to 90% over 20 minutes to provide (S)-3-(4-(5-([1,2,4]triazolo[4,3-b]pyridazin-6-yl)-6-aminopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one as yellow solid. 1H NMR (500 MHz, DMSO-d6) δ 9.67 (s, 1H), 8.44 (d, J=2.24 Hz, 1H), 8.39 (d, J=9.72 Hz, 1H), 8.27 (d, J=2.56 Hz, 1H), 8.03 (d, J=9.94 Hz, 1H), 7.67 (d, J=8.76 Hz, 2H), 7.55 (d, J=8.87 Hz, 2H), 7.35-7.41 (m, 2H), 7.27-7.34 (m, 3H), 7.23 (s, 2H), 5.47-5.53 (m, 1H), 1.66 (s, 3H), 0.92 (s, 3H). m/z (ESI) 478.2 (M+H)+.

reactant | ammonia | 2.91 mmol, 2 M, 63.2 μL | N | H3N
reactant | (S)-3-(4-(5-([1,2,4]triazolo[4,3-b]pyridazin-6-yl)-6-fluoropyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 0.029 mmol, 14 mg | N=1N=CN2N=C(C=CC21)C=2C=C(C=NC2F)C2=CC=C(C=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C27H21FN6O2
solvent | DMSO | 291 μL | CS(=O)C | C2H6OS
product | (S)-3-(4-(5-([1,2,4]Triazolo[4,3-b]pyridazin-6-yl)-6-aminopyridin-3-yl)phenyl)-5,5-dimethyl-4-phenyloxazolidin-2-one | N=1N=CN2N=C(C=CC21)C=2C=C(C=NC2N)C2=CC=C(C=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C27H23N7O2
